*
*|DSPF 1.5
*
*|DATE "Mon Jan 15 10:40:35 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "OAI221X2"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  OAI221X2 A0 A1 B0 B1 C0 Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A0 5.47927e-16
*|P (A0 X 0 0.4720 2.1590)
*|I (MX43/M0#g MX43/M0 g X 0 0.4750 0.9700)
*|I (MX43/M1#g MX43/M1 g X 0 0.9050 0.9700)
*|I (MX34/M0#g MX34/M0 g X 0 0.4750 2.9850)
*|I (MX34/M1#g MX34/M1 g X 0 0.9050 2.9850)
*|S (A0#13 0.9050 1.8900)
*|S (A0#14 0.6900 1.8900)
*|S (A0#15 0.4650 1.8900)
*|S (A0#17 0.4600 1.8900)
C1 MX34/M1#g VSS 5.61585e-17
C2 MX34/M0#g VSS 6.40938e-17
C3 MX43/M1#g VSS 5.02896e-17
C4 MX43/M0#g VSS 5.00713e-17
C5 A0#17 VSS 9.63573e-17
C6 A0#14 VSS 1.01565e-16
C7 A0 VSS 1.29391e-16
Rg1 MX34/M1#g A0#13 345.685425 $W=0.15
Rg2 A0#13 A0#14 20.521515 $W=0.33
Rg3 A0#14 A0#15 20.521515 $W=0.33
Rg4 A0#15 MX43/M0#g 288.664734 $W=0.15
Rg5 A0#13 MX43/M1#g 288.664734 $W=0.15
Rg6 A0#15 MX34/M0#g 345.685425 $W=0.15
Rf7 A0#14 A0#17 24.817646 $W=0.17
Re8 A0 A0#17 152.129333 $W=0.26
*
*|NET A1 5.65089e-16
*|P (A1 X 0 1.3920 2.0740)
*|I (MX42/M0#g MX42/M0 g X 0 1.3350 0.9700)
*|I (MX42/M1#g MX42/M1 g X 0 1.7650 0.9700)
*|I (MX41/M0#g MX41/M0 g X 0 1.3350 2.9850)
*|I (MX41/M1#g MX41/M1 g X 0 1.7650 2.9850)
*|S (A1#13 1.7650 1.8900)
*|S (A1#14 1.5500 1.8900)
*|S (A1#15 1.3250 1.8900)
*|S (A1#17 1.3800 1.8900)
C8 MX41/M1#g VSS 6.64279e-17
C9 MX41/M0#g VSS 6.61515e-17
C10 MX42/M1#g VSS 5.62664e-17
C11 MX42/M0#g VSS 4.75379e-17
C12 A1#14 VSS 8.57973e-17
C13 A1 VSS 2.42908e-16
Rg9 MX41/M1#g A1#13 345.685425 $W=0.15
Rg10 A1#13 A1#14 20.521515 $W=0.33
Rg11 A1#14 A1#15 20.521515 $W=0.33
Rg12 A1#15 MX42/M0#g 288.664734 $W=0.15
Rg13 A1#13 MX42/M1#g 288.664734 $W=0.15
Rg14 A1#15 MX41/M0#g 345.685425 $W=0.15
Rf15 A1#14 A1#17 20.299999 $W=0.17
Re16 A1 A1#17 152.088455 $W=0.26
*
*|NET B0 5.51134e-16
*|P (B0 X 0 2.7720 2.0840)
*|I (MX36/M0#g MX36/M0 g X 0 3.1450 0.9700)
*|I (MX36/M1#g MX36/M1 g X 0 2.7150 0.9700)
*|I (MX38/M0#g MX38/M0 g X 0 3.1450 2.9850)
*|I (MX38/M1#g MX38/M1 g X 0 2.7150 2.9850)
*|S (B0#13 3.1450 1.8900)
*|S (B0#14 2.9300 1.8900)
*|S (B0#15 2.7050 1.8900)
*|S (B0#17 2.7600 1.8900)
C14 MX38/M1#g VSS 6.71772e-17
C15 MX38/M0#g VSS 5.87975e-17
C16 MX36/M1#g VSS 5.15634e-17
C17 MX36/M0#g VSS 5.43019e-17
C18 B0#14 VSS 8.67395e-17
C19 B0 VSS 2.32554e-16
Rg17 MX38/M0#g B0#13 345.685425 $W=0.15
Rg18 B0#13 B0#14 20.521515 $W=0.33
Rg19 B0#14 B0#15 20.521515 $W=0.33
Rg20 B0#15 MX36/M1#g 288.664734 $W=0.15
Rg21 B0#13 MX36/M0#g 288.664734 $W=0.15
Rg22 B0#15 MX38/M1#g 345.685425 $W=0.15
Rf23 B0#14 B0#17 20.299999 $W=0.17
Re24 B0 B0#17 152.093262 $W=0.26
*
*|NET B1 5.75447e-16
*|P (B1 X 0 3.6920 2.0790)
*|I (MX37/M0#g MX37/M0 g X 0 4.0050 0.9700)
*|I (MX37/M1#g MX37/M1 g X 0 3.5750 0.9700)
*|I (MX39/M0#g MX39/M0 g X 0 4.0050 2.9850)
*|I (MX39/M1#g MX39/M1 g X 0 3.5750 2.9850)
*|S (B1#13 4.0050 1.8900)
*|S (B1#14 3.7900 1.8900)
*|S (B1#15 3.5650 1.8900)
*|S (B1#17 3.6800 1.8900)
C20 MX39/M1#g VSS 6.23999e-17
C21 MX39/M0#g VSS 6.60381e-17
C22 MX37/M1#g VSS 5.01936e-17
C23 MX37/M0#g VSS 5.77749e-17
C24 B1#14 VSS 9.40474e-17
C25 B1 VSS 2.44993e-16
Rg25 MX39/M0#g B1#13 345.685425 $W=0.15
Rg26 B1#13 B1#14 20.521515 $W=0.33
Rg27 B1#14 B1#15 20.521515 $W=0.33
Rg28 B1#15 MX37/M1#g 288.664734 $W=0.15
Rg29 B1#13 MX37/M0#g 288.664734 $W=0.15
Rg30 B1#15 MX39/M1#g 345.685425 $W=0.15
Rf31 B1#14 B1#17 15.782353 $W=0.17
Re32 B1 B1#17 152.090866 $W=0.26
*
*|NET C0 6.277e-16
*|P (C0 X 0 4.6120 2.0590)
*|I (MX35/M0#g MX35/M0 g X 0 4.9550 0.9700)
*|I (MX35/M1#g MX35/M1 g X 0 5.3850 0.9700)
*|I (MX40/M0#g MX40/M0 g X 0 4.9550 2.9850)
*|I (MX40/M1#g MX40/M1 g X 0 5.3850 2.9850)
*|S (C0#13 5.3850 1.8900)
*|S (C0#14 5.1700 1.8900)
*|S (C0#15 4.9450 1.8900)
*|S (C0#17 4.6000 1.8900)
C26 MX40/M1#g VSS 6.7342e-17
C27 MX40/M0#g VSS 6.24001e-17
C28 MX35/M1#g VSS 5.47746e-17
C29 MX35/M0#g VSS 5.40142e-17
C30 C0#17 VSS 2.84641e-16
C31 C0#14 VSS 1.04528e-16
Rg33 MX40/M1#g C0#13 345.685425 $W=0.15
Rg34 C0#13 C0#14 20.521515 $W=0.33
Rg35 C0#14 C0#15 20.521515 $W=0.33
Rg36 C0#15 MX35/M0#g 288.664734 $W=0.15
Rg37 C0#13 MX35/M1#g 288.664734 $W=0.15
Rg38 C0#15 MX40/M0#g 345.685425 $W=0.15
Rf39 C0#14 C0#17 50.417648 $W=0.17
Re40 C0 C0#17 152.081253 $W=0.26
*
*|NET Y 2.04393e-15
*|P (Y X 0 5.5320 2.0740)
*|I (MX35/M0#d MX35/M0 d X 0 5.0305 0.9700)
*|I (MX35/M1#s MX35/M1 s X 0 5.3095 0.9700)
*|I (MX41/M0#d MX41/M0 d X 0 1.4105 2.9850)
*|I (MX41/M1#s MX41/M1 s X 0 1.6895 2.9850)
*|I (MX40/M0#d MX40/M0 d X 0 5.0305 2.9850)
*|I (MX40/M1#s MX40/M1 s X 0 5.3095 2.9850)
*|I (MX39/M0#d MX39/M0 d X 0 3.9295 2.9850)
*|I (MX39/M1#s MX39/M1 s X 0 3.6505 2.9850)
*|S (Y#1 1.5500 3.0150)
*|S (Y#3 3.7900 3.0150)
*|S (Y#5 5.1700 3.1950)
*|S (Y#7 5.1700 1.1850)
*|S (Y#10 5.1700 2.9850)
C32 MX39/M0#d VSS 2.02729e-16
C33 MX40/M0#d VSS 1.60298e-16
C34 MX41/M0#d VSS 2.02212e-16
C35 MX35/M0#d VSS 1.41336e-16
C36 Y#10 VSS 2.45802e-16
C37 Y#1 VSS 3.26423e-16
C38 Y#3 VSS 4.40434e-16
C39 Y#7 VSS 2.18977e-16
C40 Y VSS 1.05722e-16
Rf41 Y#1 MX41/M0#d 7.258823 $W=0.17
Rf42 Y#3 MX39/M0#d 159.258820 $W=0.17
Rf43 Y#5 MX40/M0#d 10.600000 $W=0.48
Rf44 Y#7 MX35/M0#d 23.688236 $W=0.17
Re45 Y#5 Y#10 76.062996 $W=0.23
Re46 Y#10 Y#3 0.732284 $W=0.23
Re47 Y#3 Y#1 153.191528 $W=0.23
Re48 Y#10 Y 0.567655 $W=0.23
Re49 Y Y#7 152.533234 $W=0.229
Rmw50 MX35/M1#s MX35/M0#d 0.001000 $W=1000000
Rmw51 MX41/M1#s MX41/M0#d 0.001000 $W=1000000
Rmw52 MX40/M1#s MX40/M0#d 0.001000 $W=1000000
Rmw53 MX39/M1#s MX39/M0#d 0.001000 $W=1000000
*
*|NET 1 9.24924e-16
*|I (MX41/M0#s MX41/M0 s X 0 1.2595 2.9850)
*|I (MX41/M1#d MX41/M1 d X 0 1.8405 2.9850)
*|I (MX34/M0#s MX34/M0 s X 0 0.3995 2.9850)
*|I (MX34/M1#d MX34/M1 d X 0 0.9805 2.9850)
*|S (1 0.2600 3.3750)
*|S (1#3 1.1200 3.3750)
*|S (1#5 1.9800 3.3850)
C41 MX34/M0#s VSS 1.56978e-16
C42 MX41/M1#d VSS 1.7185e-16
C43 MX41/M0#s VSS 1.78696e-16
C44 1#3 VSS 1.46485e-16
C45 1#5 VSS 1.60901e-16
C46 1 VSS 1.10014e-16
Rf54 1 MX34/M0#s 34.364708 $W=0.17
Rf55 1#3 MX41/M0#s 186.364716 $W=0.17
Rf56 1#5 MX41/M1#d 35.117649 $W=0.17
Re57 1 1#3 152.438217 $W=0.23
Re58 1#3 1#5 152.439880 $W=0.23
Rmw59 MX34/M1#d MX41/M0#s 0.001000 $W=1000000
*
*|NET 3 1.06849e-15
*|I (MX39/M0#s MX39/M0 s X 0 4.0805 2.9850)
*|I (MX39/M1#d MX39/M1 d X 0 3.4995 2.9850)
*|I (MX38/M0#s MX38/M0 s X 0 3.2205 2.9850)
*|I (MX38/M1#d MX38/M1 d X 0 2.6395 2.9850)
*|S (3 2.5000 3.3850)
*|S (3#3 3.3600 3.3850)
*|S (3#5 4.2200 3.3850)
C47 MX38/M1#d VSS 1.73514e-16
C48 MX39/M1#d VSS 1.96148e-16
C49 MX39/M0#s VSS 1.74533e-16
C50 3#3 VSS 2.01429e-16
C51 3#5 VSS 1.63854e-16
C52 3 VSS 1.59008e-16
Rf60 3 MX38/M1#d 35.117649 $W=0.17
Rf61 3#3 MX39/M1#d 187.117645 $W=0.17
Rf62 3#5 MX39/M0#s 35.117649 $W=0.17
Re63 3#5 3#3 152.441528 $W=0.23
Re64 3#3 3 152.441528 $W=0.23
Rmw65 MX38/M0#s MX39/M1#d 0.001000 $W=1000000
*
*|NET 4 1.22035e-15
*|I (MX37/M0#d MX37/M0 d X 0 3.9295 0.9700)
*|I (MX37/M1#s MX37/M1 s X 0 3.6505 0.9700)
*|I (MX36/M0#d MX36/M0 d X 0 3.0695 0.9700)
*|I (MX36/M1#s MX36/M1 s X 0 2.7905 0.9700)
*|I (MX35/M0#s MX35/M0 s X 0 4.8795 0.9700)
*|I (MX35/M1#d MX35/M1 d X 0 5.4605 0.9700)
*|S (4#2 2.9300 0.7550)
*|S (4#4 3.7900 0.7550)
*|S (4#6 4.7400 0.9350)
*|S (4 5.6000 0.9350)
*|S (4#10 4.7400 0.7250)
C53 MX36/M0#d VSS 6.9489e-19
C54 MX37/M0#d VSS 1.89634e-19
C55 4#10 VSS 2.26778e-16
C56 4#2 VSS 2.93581e-16
C57 4#4 VSS 3.35601e-16
C58 4#6 VSS 1.08737e-16
C59 4 VSS 2.54768e-16
Rf66 MX36/M0#d 4#2 23.688236 $W=0.17
Rf67 MX37/M0#d 4#4 175.688232 $W=0.17
Rf68 MX35/M0#s 4#6 8.423712 $W=0.485
Rf69 MX35/M1#d 4 8.423712 $W=0.485
Re70 4 4#10 76.521576 $W=0.23
Re71 4#10 4#4 0.498589 $W=0.23
Re72 4#4 4#2 152.441528 $W=0.23
Re73 4#10 4#6 76.062996 $W=0.23
Rmw74 MX37/M1#s MX37/M0#d 0.001000 $W=1000000
Rmw75 MX36/M1#s MX36/M0#d 0.001000 $W=1000000
*
*|NET 5 1.49694e-15
*|I (MX43/M0#d MX43/M0 d X 0 0.5505 0.9700)
*|I (MX43/M1#s MX43/M1 s X 0 0.8295 0.9700)
*|I (MX42/M0#d MX42/M0 d X 0 1.4105 0.9700)
*|I (MX42/M1#s MX42/M1 s X 0 1.6895 0.9700)
*|I (MX37/M0#s MX37/M0 s X 0 4.0805 0.9700)
*|I (MX37/M1#d MX37/M1 d X 0 3.4995 0.9700)
*|I (MX36/M0#s MX36/M0 s X 0 3.2205 0.9700)
*|I (MX36/M1#d MX36/M1 d X 0 2.6395 0.9700)
*|S (5 0.6900 1.0050)
*|S (5#3 1.5500 1.0050)
*|S (5#5 2.5000 1.0050)
*|S (5#7 3.3600 1.1850)
*|S (5#9 4.2200 1.1850)
*|S (5#12 2.5000 1.2150)
*|S (5#13 1.5500 1.2150)
*|S (5#14 0.6900 1.2150)
C60 MX36/M1#d VSS 9.41877e-17
C61 MX37/M1#d VSS 1.33614e-16
C62 MX37/M0#s VSS 1.19796e-16
C63 MX42/M0#d VSS 1.13258e-16
C64 MX43/M0#d VSS 1.13636e-16
C65 5#14 VSS 2.14683e-16
C66 5#13 VSS 1.85747e-16
C67 5#12 VSS 2.03085e-16
C68 5#7 VSS 1.86908e-16
C69 5#9 VSS 1.3203e-16
Rf76 5 MX43/M0#d 8.423712 $W=0.485
Rf77 5#3 MX42/M0#d 8.423712 $W=0.485
Rf78 5#5 MX36/M1#d 8.423712 $W=0.485
Rf79 5#7 MX37/M1#d 175.688232 $W=0.17
Rf80 5#9 MX37/M0#s 23.688236 $W=0.17
Re81 5#5 5#12 76.062996 $W=0.23
Re82 5#12 5#13 0.506735 $W=0.23
Re83 5#13 5#14 0.457822 $W=0.23
Re84 5#12 5#7 0.449676 $W=0.23
Re85 5#13 5#3 76.062996 $W=0.23
Re86 5#14 5 76.062996 $W=0.23
Re87 5#7 5#9 152.441528 $W=0.23
Rmw88 MX43/M1#s MX43/M0#d 0.001000 $W=1000000
Rmw89 MX42/M1#s MX42/M0#d 0.001000 $W=1000000
Rmw90 MX36/M0#s MX37/M1#d 0.001000 $W=1000000
*
*Instance Section
*
MX43/M0	MX43/M0#d	MX43/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX43/M1	VSS	MX43/M1#g	MX43/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX42/M0	MX42/M0#d	MX42/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX42/M1	VSS	MX42/M1#g	MX42/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX37/M0	MX37/M0#d	MX37/M0#g	MX37/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX37/M1	MX37/M1#d	MX37/M1#g	MX37/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX36/M0	MX36/M0#d	MX36/M0#g	MX36/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX36/M1	MX36/M1#d	MX36/M1#g	MX36/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX35/M0	MX35/M0#d	MX35/M0#g	MX35/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX35/M1	MX35/M1#d	MX35/M1#g	MX35/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX41/M0	MX41/M0#d	MX41/M0#g	MX41/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX41/M1	MX41/M1#d	MX41/M1#g	MX41/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX40/M0	MX40/M0#d	MX40/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX40/M1	VDD	MX40/M1#g	MX40/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX39/M0	MX39/M0#d	MX39/M0#g	MX39/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX39/M1	MX39/M1#d	MX39/M1#g	MX39/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX38/M0	VDD	MX38/M0#g	MX38/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX38/M1	MX38/M1#d	MX38/M1#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX34/M0	VDD	MX34/M0#g	MX34/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX34/M1	MX34/M1#d	MX34/M1#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
.ENDS
